US06200980B1
5-[2-Ethoxy-5-(1-pyridyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
The title compound was prepared from 2-bromopyridine and 5-(5-bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one, following the procedure described in Example 82, and was obtained as an off-white solid (33%), m.p. 216-218° C. Found: C,67.61; H,5.81; N,17.63. C22H23N5O2 requires C,67.85; H,5.95; N,17.98%.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 5-(5-bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | BrC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H19BrN4O2
product | 5-[2-Ethoxy-5-(1-pyridyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)OC1=C(C=C(C=C1)N1CC=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C22H25N5O2
